US06831100B2
A solution of 1-menthol (1 gram) in benzoyl chloride (1 ml) was stirred at room temperature for 72 hours. This solution yielded menthyl benzoate of 89.5% purity. Further purification of this product through column chromatography resulted to increase in purity level to at least 98.8%. This fraction yielded colourless crystals and confirmed for purity by 1HNMR, 13CNMR, IR and Mass spectra.

reactant | 1-menthol | 1 gram | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
reactant | benzoyl chloride | 1 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | menthyl benzoate | C(C1=CC=CC=C1)(=O)OC1CC(CCC1C(C)C)C | C17H24O2
